US05358854
3. 6-Chloroindoxyl-1,3-diacetate
Into a 5 L, 3-neck flask equipped with mechanical stirring, reflux condenser and gas evolution bubbler was placed 335 g (1.33M) of 5-chloro-2-carboxyphenylglycine sodium salt, 2.3 l acetic anhydride and 421 g of anhydrous sodium acetate. The mixture was brought to reflux and maintained for 3 hours until the evolution of carbon dioxide was nearly complete. The mixture was placed in a beaker while hot and chilled to 0° C. overnight. The next day, the product was filtered off and mixed with 2 L water and stirred for 1 hour to hydrolyze any residual acetic anhydride. The solid was filtered off and washed with water and then dried in vacuo. This crude material, when dry, was dissolved in the minimum of hot ethyl acetate and allowed to crystallize overnight at 0° C. After filtering and washing with a little cold hexane, and drying in vacuo, the product weighed 150 g and had a melting point of 112°-113° C.

reactant | 5-chloro-2-carboxyphenylglycine sodium salt | 1.33M, 335 g | [Na+].ClC=1C=CC(=C(C1)NCC(=O)[O-])C(=O)O
reactant | acetic anhydride | 2.3 l | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 421 g | C(C)(=O)[O-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
product | 6-Chloroindoxyl-1,3-diacetate | CC(=O)N1C=C(C2=C1C=C(C=C2)Cl)OC(=O)C | C12H10ClNO3
